Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Donnatal / nitroglycerin
 
Attending: ___.
 
Chief Complaint:
L wrist pain

 
Major Surgical or Invasive Procedure:
Left distal radius fracture reduction and splinting. 
Scalp laceration sutured closed. 

 
History of Present Illness:
Patient is ___, h/o HTN, ovarian CA s/p resection + chemo who 
initially presented with L wrist pain ___ mechanical fall, found 
to have scalp laceration, rib fractures and L distal radius 
fracture s/p splinting, who is being transferred to the medicine 
service for further evaluation and work up of syncope and renal 
failure.
 
Patient presented to the ___ ED on ___ after having an 
unwitnessed fall down stairs. Patient reports, in the middle of 
the night, she tripped on the carpet causing her to fall down 
the stairs. She rarely walks down her stairs as she usually uses 
a stair lift. However, her stair lift had recently broke down. 
Per EMS, she was found at the bottom of the stairs. Patient 
endorses LOC. She has no recollection of the events during or 
immediately after the fall. She doesn't think she syncopized. 

In the ED, she was afebrile, hemodynamically stable, and 
neurvascularly intact. Labs were notable for an elevated CK of 
308 and dirty U/A. She was given a 500cc bolus IVF and then 
started on LR at 100cc/hr. She was started on ciprofloxaicn. Her 
EKG was unremarkable. Negative troponins. She was noted to have 
L scalp laceration that was sutured closed. CT imaging was 
notable for posterior rib fractures. Xray demonstrated a closed 
L distal radius which was reduced and splinted. No evidence of 
intracranial hemorrhage or spine fractures. 

She was admitted to the orthopaedic service. Her vitals were T 
98.0 112/41 69 18 96% RA. Her labs revealed evidence ___ with 
a BUN/Cr of 35/1.6. She refused a foley catheter. A syncope 
workup was begun. She had carotid dopplers showed no 
hemodynamically significant and an ECHO demonstrating LVEF >55% 
with moderate aortic valve calcification. Her repeat CK 
uptrended to 370. At which point she was prepared for transfer 
to the medicine service. 

She arrived to the medicine floor on ___. Currently, she 
appears well. She is hard of hearing, however she is alert and 
oriented. She complains of significant numbness and tingling her 
L fingertips in the setting of a L wrist splint. She denies pain 
throughout. Denies chest pain, chest pressure, palpitations SOB, 
DOE, dysuria, urinary frequency. 
 
Past Medical History:
Hypertension
Headaches
Spinal stenosis
GERD
Ovarian CA s/p TAH/BSO and chemo
Raynaud's
Neurofibroma on aorta
Lower GI bleed s/p syncopal event
IBD
Internal hemorrhoids
Migraines 
Chronic kidney disease 
Esophagitis 
s/p bilateral TKAs
s/p cholecystectomy 
 
Social History:
___
Family History:
Unknown 
 
Physical Exam:
=============================
PHYSICAL EXAM ON ADMISSION:
=============================
Vitals: Tm 98.9, Tc 97.6, BP 110-140s/40s, P ___, R 18, % ___ 
RA, Wt 45.4 kg  
General: NAD, AOx3, lying comfortably in bed
HEENT: L posterior skull ecchymosis, L infraorbital ecchymosis, 
L forehead laceration, hard of hearing, PERRLA, EOMI w/ 
horizontal nystagmus, sclera anicteric, MMM, oropharynx clear w/ 
atrophic tongue   
Neck: L lateral neck ecchymosis, JVP not elevated, no LAD  
Lungs: Faint crackles at lung bases b/l, otherswise clear, no 
r/w/r CV: RRR, nml S1S2, no S3S4, no murmurs 
Abdomen: Several midline scars, atrophic skin, soft, NT/ND, no 
rebound tenderness or guarding, no organomegaly  
GU: no foley, no suprapubic tenderness
RUE: no gross deformities, skin intact, full passive ROM, 
limited active ROM at shoulder joint ___ pain, palpable radial 
pulse, SILT
LUE: no gross deformity, posterior arm ecchymosis, ecchymosis at 
knuckles, in short arm splint, able to wiggle fingers, SILT, 
palpable radial RLE:
LLE: no gross deformity, anterior knee scar, FROM, wiggles toes, 
SILT R/M/U distributions, WWP w/ palpable DP pulse, dopplerable 
___ pulse, nonpitting edema extending to mid leg
RLE: no gross deformity, anterior knee scar, FROM, wiggles toes, 
SILT, cold foot, dopplerable ___ pulses, nonpitting edema 
extending to mid leg
Neuro: CNII-XII intact, motor function grossly normal
Mental Status: AOx3, understands reason for being in hospital

=============================
PHYSICAL EXAM ON DISCHARGE:
=============================
Vitals: Tm 99.2, Tc 98.4, BP 140s-160s/40s-60s, P ___, R 18, 
% 96 RA 
General: NAD, AOx3, sitting comfortably in chair
HEENT: L posterior skull ecchymosis, L infraorbital ecchymosis, 
L forehead laceration, hard of hearing, PERRLA, EOMI w/ 
horizontal nystagmus, sclera anicteric, MMM, oropharynx clear w/ 
atrophic tongue   
Neck: L lateral neck ecchymosis, JVP not elevated, no LAD  
Lungs: Clear to ausculation bilaterally no r/w/r 
CV: RRR, nml S1S2, no S3S4, no murmurs 
Abdomen: Several midline scars, atrophic skin, soft, ND, 
epigastric/xyphoid TTP, no rebound tenderness or guarding
GU: no foley, no suprapubic tenderness
RUE: no gross deformities, skin intact, full passive ROM, 
limited active ROM at shoulder joint ___ pain, palpable radial 
pulse, SILT
LUE: no gross deformity, posterior arm ecchymosis, ecchymosis at 
knuckles, in short arm splint, able to wiggle fingers, SILT, 2+ 
palpable radial 
LLE: no gross deformity, anterior knee scar, FROM, wiggles toes, 
SILT, WWP w/ palpable DP pulse, nonpitting edema 
RLE: no gross deformity, anterior knee scar, FROM, wiggles toes, 
SILT, cold foot w/ palpable DP pulse, nonpitting edema 
Neuro: CNII-XII intact, motor function grossly normal
Mental Status: AOx3

 
Pertinent Results:
===================
LABS ON ADMISSION:
===================
___ 01:39AM BLOOD WBC-9.4 RBC-3.12* Hgb-10.0* Hct-31.0* 
MCV-99* MCH-32.0 MCHC-32.2 RDW-14.3 Plt ___
___ 01:39AM BLOOD Neuts-63.6 ___ Monos-6.0 Eos-4.0 
Baso-0.4
___ 01:39AM BLOOD ___ PTT-22.2* ___
___ 01:39AM BLOOD Plt ___
___ 01:39AM BLOOD ___ 01:39AM BLOOD Glucose-139* UreaN-35* Creat-1.6* Na-139 
K-4.2 Cl-108 HCO3-18* AnGap-17
___ 12:40PM BLOOD CK(CPK)-308*
___ 01:39AM BLOOD ALT-14 AST-21 CK(CPK)-122 AlkPhos-65 
TotBili-0.1
___ 01:39AM BLOOD Lipase-74*
___ 01:39AM BLOOD cTropnT-<0.01
___ 01:39AM BLOOD Albumin-4.4
___ 01:39AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 01:39AM BLOOD pO2-54* pCO2-39 pH-7.32* calTCO2-21 Base 
XS--5 Comment-GREEN TOP 
___ 01:39AM BLOOD Glucose-132* Lactate-1.7 Na-140 K-4.2 
Cl-109*
___ 01:39AM BLOOD Hgb-9.9* calcHCT-30 O2 Sat-85 COHgb-1 
MetHgb-0

===================
PERTINENT LABS:
===================
___ 09:30PM BLOOD CK(CPK)-370*
___ 12:40PM BLOOD CK(CPK)-308*
___ 01:39AM BLOOD ALT-14 AST-21 CK(CPK)-122 AlkPhos-65 
TotBili-0.1
___ 09:30PM BLOOD CK-MB-7 cTropnT-<0.01
___ 12:40PM BLOOD CK-MB-7 cTropnT-<0.01
___ 01:39AM BLOOD cTropnT-<0.01
___ 01:50PM BLOOD WBC-9.5 RBC-2.34* Hgb-7.3*# Hct-23.5* 
MCV-100* MCH-31.5 MCHC-31.3 RDW-14.8 Plt ___
___ 07:42AM BLOOD WBC-9.5 RBC-2.02* Hgb-6.4* Hct-20.0* 
MCV-99* MCH-31.7 MCHC-31.9 RDW-14.6 Plt ___
___ 07:00PM BLOOD WBC-10.4 RBC-2.02* Hgb-6.4* Hct-19.7* 
MCV-98 MCH-31.6 MCHC-32.3 RDW-14.8 Plt ___
___ 05:00AM BLOOD WBC-7.6 RBC-2.42* Hgb-7.5* Hct-23.5* 
MCV-97 MCH-31.2 MCHC-32.0 RDW-15.9* Plt ___
___ 01:50PM BLOOD Glucose-119* UreaN-29* Creat-1.6* Na-136 
K-3.7 Cl-104 HCO3-21* AnGap-15
___ 07:42AM BLOOD Glucose-97 UreaN-33* Creat-1.6* Na-138 
K-4.1 Cl-107 HCO3-22 AnGap-13
___ 05:00AM BLOOD Glucose-85 UreaN-29* Creat-1.4* Na-137 
K-4.3 Cl-107 HCO3-23 AnGap-11

===================
LABS ON DISCHARGE:
===================
___ 07:30AM BLOOD WBC-6.4 RBC-2.46* Hgb-7.8* Hct-24.1* 
MCV-98 MCH-31.9 MCHC-32.6 RDW-16.4* Plt ___
___ 07:30AM BLOOD Plt ___
___ 07:30AM BLOOD Glucose-90 UreaN-27* Creat-1.3* Na-139 
K-3.9 Cl-106 HCO3-25 AnGap-12
___ 05:00AM BLOOD LD(LDH)-302*
___ 07:42AM BLOOD ALT-12 AST-24 CK(CPK)-228* AlkPhos-48 
Amylase-52 TotBili-0.2

========
EKG:
========
___: Sinus rhythm. Left axis deviation with left anterior 
fascicular block. No changes from previous ___. 

========
IMAGES:
========
___ RUQ U/S: No evidence of ascites or free intraperitoneal 
fluid. Status post cholecystectomy. Stable, mild CBD dilation up 
to 1.0 cm.

___ XR L LEG: No acute fracture or dislocation. Status post 
left knee arthroplasty w/o evidence for hardware complication. 

___ ECHO: Left atrium is normal in size. No atrial septal 
defect is seen by 2D or color Doppler. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF >55%). The estimated cardiac index is high 
(>4.0L/min/m2). Tissue Doppler imaging suggests an increased 
left ventricular filling pressure (PCWP>18mmHg). No mid-cavitary 
gradient is identified. Right ventricular chamber size and free 
wall motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. There are three aortic 
valve leaflets. The aortic valve leaflets are moderately 
thickened/ calcific. There is no aortic valve stenosis. No 
aortic regurgitation is seen. The mitral valve leaflets are 
moderately thickened. Trivial mitral regurgitation is seen. [Due 
to acoustic shadowing, the severity of mitral regurgitation may 
be significantly UNDERestimated.] The tricuspid valve leaflets 
are mildly thickened. There is mild pulmonary artery systolic 
hypertension. The pulmonic valve leaflets are thickened. There 
is no pericardial effusion.

___ L FOREARM: Impacted fracture of the distal radius at the 
metaphysis. Equivocal intraarticular extension. Dorsal tilting 
of the radial articular surface. Surrounding soft tissue 
swelling. Overall demineralization. Baseline degenerative 
changes of the first CMC and first MCP joint. 

___ CAROTID DOPPLER: Other than mild heterogeneous plaque in 
the proximal left internal carotid artery, no hemodynamically 
significant stenosis noted on either side. 

___ CT CHEST/ABD/PELVIS: No solid organ injury. Nondisplaced 
fractures of the posterior right ninth and tenth ribs. Moderate 
intra and extrahepatic biliary ductal dilatation is incidentally 

noted. The common bile duct measures 15 mm. No pancreatic ductal 
dilatation. Suggestive of underlying sphincter of Oddi 
dysfunction or ampullary stenosis. Correlate with LFTs and 
consider ERCP on a nonurgent basis. 1.7 cm ground-glass opacity 
in the right lower lobe, possibly inflammatory, and 4 mm left 
lower lobe nodule. Followup non-contrast CT chest is recommended 
in 6 months.  1 cm nodule in the right lobe of the thyroid. 
Correlate with TSH levels and with any prior OSH thyroid 
imaging. 

___ CT SPINE: No evidence of fracture. Mild degenerative 
anterior subluxation of C7 on T1. Alignment is otherwise normal. 
Multilevel degenerative disc disease. 

___ CXR: Lungs are clear. No pleural effusion or pneumothorax. 
Normal cardiomediastinal silhouette. Multilevel degenerative 
changes throughout the thoracolumbar spine. 

___ XR PELVIS: No fracture or dislocation.  There are 
moderate degenerative changes bilaterally in the hip joints.  
Muscular calcifiations are better shown on same day CT. 

___ CT HEAD: No intracranial hemorrhage or mass effect. Large 
frontoparietal subgaleal scalp hematoma. No fracture. 
 
Brief Hospital Course:
Mrs. ___ is a pleasant ___ woman with a history of 
hypertension, chronic kidney disease, esophagitis, ovarian 
canncer s/p resection and chemo therapy who presented with a 
scalp laceration, posterior rib fractures and left distal radius 
fracture to a mechanical fall down stairs.  

======================
ACTIVE ISSUES:
====================== 
# Mechanical Fall w/fractures:  Patient had multiple imaging 
studies done in ED to rule out any intracranial bleed and 
orthopedic injuries.  She was noted to have a scalp laceration 
which was sutured closed as well as a left distal radius 
fracture which was reduced by Orthoedic Surgery and splinted.  
She was additionally noted to have multiple posterior rib 
fractures.  Patient was initially admitted to the acute care 
surgery service for further monitoring and a syncope work up was 
initiated.  She had an ECHO which showed preserved EF and 
moderate AS.  Carotid dopplers demonstrated no significant 
stenosis.  EKG was unrevealing.  Patient was monitored on 
telemetry throughout hospitalization without any arrhythmias 
detected.  Given the history of two falls in setting of broken 
mechanical chair and carpeted stairwell, the fall was thought to 
be most likely mechanical in nature.  Patient was seen by ___ who 
thought she would benefit from home physical therapy.  Her left 
arm remained splinted.  Pain control was achieved with Tylenol 
and Tramadol and incentive spirometry was encouraged in setting 
of rib fractures to prevent atalectasis.

# Acute blood loss anemia: Pt presented with H/H of ___ on 
___. H/H dropped to 7.3/23.5 on ___ on ___. She was 
transfused with 1u pRBCs with appropriate bump in H/H. Pt with 
h/o chronic anemia with a baseline HCT of ___ since ___ (per 
PCP). She has refused workup of her anemia in the past. Her PCP 
suspects her chronic anemia is likely related to her long h/o 
esophagitis. The etiology of her acute drop in H/H is unclear 
though she had numerous ecchymoses on presentation and a scalp 
laceration that continued to ooze for >24 hours. Pt was taking 
increased amounts of Aspirin/Alleve for migraines and arthritis 
prior to admission and she was guaiac positive (w/ brown 
stool)--increasing suspicion for a possible slow GI bleed. Retic 
count inappropriately low. GI was consulted who did not think 
that the H/H drop was ___ related to GI bleed and recommended 
deferring Endoscopy/Colonoscopy at this time.  She was started 
on PPI IV initially and transitioned to PO Pantoprazole at 
discharge given her history of Aspirin/NSAID use.  She 
additionally had a RUQ U/S to rule out any free fluid in the 
abdomen given interval development of epigastric pain.  U/S was 
unremarkable and showed stable CBD dilation.  She was to 
continue PPI and iron supplementation.  Her H/H at time of 
discharge was 7.8/24.1.  

# ___ w/ CKD: Pt presented with BUN/Cr of 35/1.6 in setting of 
bleeding from trauma as above, increased NSAID use and UTI (see 
below).  She was initially volume resuscitated with LR bolus and 
maintenance fluids.  NSAIDs were held as well as her ACEI/HCTZ.  
Her creatinine subsequently downtrended to baseline of 1.3-1.4.

# UTI: Pt had a weakly positive U/A on presentation. Urine 
culture not sent and initial UA sample not available. Pt 
empirically tx with Cipro 250mg qDaily x3 days (started ___, 
stopped ___. 

======================
CHRONIC ISSUES:
====================== 
# HTN: Pt home atenolol and hydrochlorothiazide were held. Pt's 
BP ranged in 120s-150s/40-60s during her hospitalization without 
any anti-hypertensive medications onboard. At discharge, patient 
was instructed to restart home Amlodipine-Benazepril.

======================
TRANSITIONAL ISSUES:
====================== 
- Follow-up with orthopaedic trauma clinic 1 week after you are 
discharged fom the hospital. (Orthopaedic Trauma Clinic, 
___
- Follow-up with your primary care phsyician (Dr. ___ 
within 1 week after you are discharged from the hospital to 
further evaluate source of chronic anemia and to discuss 
managment of hypertension.
- Patient discharged on PPI rather than H2 blocker given 
possible NSAID induced gastritis.
- Arrange to have scalp laceration sutures removed in 2 weeks.  
- Chest CT on ___ demonstrated 1.7 cm ground-glass opacity in 
the right lower lobe. Follow-up CT chest is recommended in 3 
months.
- Chest CT on ___ revealed  1 cm nodule in the right lobe of 
the thyroid. Correlate with TSH levels and with any prior OSH 
thyroid imaging. 
- Abdomen CT on ___ incidentally showed moderate intra and 
extrahepatic biliary ductal dilatation. Consider ERCP on a 
nonurgent basis. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 12.5 mg PO DAILY 
2. Atenolol 25 mg PO DAILY 
3. Famotidine 20 mg PO DAILY 
4. Cholestyramine 4 gm PO DAILY 
5. Ferrous Sulfate 325 mg PO DAILY 
6. Amlodipine-benazepril ___ mg PO DAILY 

 
Discharge Medications:
1. TraMADOL (Ultram) 25 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth q6hrs Disp 
#*30 Tablet Refills:*0
2. amlodipine-benazepril ___ mg PO DAILY 
3. Cholestyramine 4 gm PO DAILY 
4. Ferrous Sulfate 325 mg PO DAILY 
5. Acetaminophen 650 mg PO Q6H:PRN pain 
Do not exceed more than 4 grams in one day. 
RX *acetaminophen 650 mg 1 tablet(s) by mouth q6hrs Disp #*60 
Tablet Refills:*0
6. Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES: 
Left Radius Fracture
Posterior Rib Fractures
Scalp Laceration 

SECONDARY DIAGNOSES:
Anemia
Acute Kidney Injury
Urinary Tract Infection 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Mrs. ___, 

___ was a pleasure taking care of you during your 
hospitalization. You presented to the ___ after falling down a 
set of stairs. Upon arrival, you were found to have a cut on 
your forehead, a left wrist fracture and a couple rib fractures. 
The cut on your forehead was sewed closed. The orthopaedic team 
splinted your left wrist and you were given pain medications. 
You were admitted to the orthopaedic service where your kideny 
function was found to be impaired. You were then admitted to the 
medicine service to evaluate your kidneys and to perform a 
syncope workup. While on the medicine service, your kidney 
function returned to your baseline with fluids. Your syncope 
workup was negative. You were found to have a low blood count. 
You were given 1 unit of blood. The GI team evaluated you for a 
GI bleed. You were found to not have a GI bleed. While at the 
hospital your blood pressure medications were not given to 
prevent your blood pressure from dropping too low. At the time 
of discharge, you looked well. You did not have a fever. You 
vitals were stable. You wound from the fall were healing. 

Again, Mrs. ___ it was a pleasure caring for you. 

Sincerely, 

Your ___ Team 

 
Followup Instructions:
___